Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
Altered Mental Status
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
CC: Altered mental status

HPI: Ms. ___ is a ___ woman with HTN, chronic low back
pain (on Percocet), and anxiety/insomnia (on citalopram and
Xanax) who presented with altered mental status.

Per patient and her daughter, Ms. ___ has a tendency to
self-medicate or over-medicate her pain anxiety/insomnia. She
lives in ___ in their independent living
facilities and has no help at home. She manages her own
medications, filling her pill box. She reports that over the 
past
week she was feeling increasingly confused and having 
nightmares.
She is concerned that she did not fill her pill box correctly at
the beginning of the week, though reports that she did not
intentionally take more of any medication than prescribed
including Percocet or Xanax. Her Xanax is prescribed TID, but 
she
says she only takes it at night. She self-d/c her Xanax one week
prior to admission given concern about increasing confusion and
feeling general "unwell". By mid-week she was feeling even more
concerned about confusion and nightmares and so self-d/c her
Percocet. She reports that after doing this her  She was last
seen well on ___ evening. On ___ morning she called a
neighbor and was reporting visual hallucinations (seeing little
green people). She was awake and alert, but seemed very 
confused.
As a result, EMS was called and brought her to ___. 
The
patient denies fevers/chills, urinary symptoms, shortness of
breath/cough, rashes, focal neurologic symptoms. 

At ___, ___/CBC were unremarkable. Utox negative
(including for benzos and opiates), CTH, CXR, and CT A/P were
unremarkable. They were trying to obtain an LP, but in spite of
administration of avitan, valium, and zyprexa they were unable 
to
perform the procedure due to lack of patient cooperation and so
she was sent to ___ for further management.

ED Course
Vitals: T98.0, HR 98/59, SpO2 99% on RA
Data: WBC 9.3, serum tox negative, urine tox negative, UA small
___, CSF 1 WBC, 1 RBC, protein 61, glucose 66

Course: Neurology consulted and found patient to be 
hyperreflexic
and tremulous, raising concern for serotonin syndrome/NMS

Toxicology was consulted and initially recommended treatment 
with
benzodiazepines. However, before patient received first dose of
benzo her confusion resolved dramatically as did her
hyper-reflexia.

On admission to the floor this morning the patient is able to
provide a coherent story relaying the events of the last several
days (though is confused about the last 24 hours). She feels
nearly back to her baseline. Her daughter arrived and also
confirmed that patient seems back to baseline.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 
 
Past Medical History:
HTN
HLD
Chronic low back pain
Anxiety/depression
Insomnia     
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this illness/reason for
hospitalization.
 
Physical Exam:
Discharge Physical Exam:
GENERAL: Well appearing, in no distress, fidgeting with her gown
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3/S4.  JVP 6cm
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.
GU: No suprapubic fullness or tenderness to palpation,
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted on examined skin
NEURO: Alert, oriented x3 and to president, able to say days of
week backwards, CN II-XII in tact, no nystagmus speech fluent,
moves all limbs, sensation to light touch grossly intact
throughout, patellar reflexes 2+ bilaterally, mild resting 
tremor
in hands bilaterally, no tongue fasciculations, no asterixis
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
WBC 9.3
BMP wnl
CK 269
Serum tox screen negative
Urine tox sreen negative
Lactate 1.1
UA moderate  blood, small ___
Sediment 32 RBC, 8 WBC

CSF 1 WBC, 1 RBC, TP 61, glucose 66

CSF culture pending, gram stain no PMN no organisms
CSF viral culture pending
CSF HSV PCR pending
UCx pending
BCx pending

 
Brief Hospital Course:
___ w/ HTN, chronic low back pain (on Percocet), and 
anxiety/insomnia (on citalopram and Xanax) who presented with 
altered mental status in the setting of abruptly stopping her 
benzo/opiate in the past week, now nearly back to baseline; 
presentation overall most consistent with opioid/benzo
overuse and/or withdrawal.

#Altered Mental Status
#Hyperreflexia
#Benzodiazepine Use
#Opiate Use
Ms. ___ presented with altered mental status and 
hallucinations in the context of self-d/c her Xanax 7 days 
before admission and Percocet before admission. Her presenting 
symptoms were visual hallucinations and she was initially found 
to be hyper-reflexic. Per ___ she had recently filled 
prescriptions for Xanax and Percocet from her PCP. Per review of 
her pill box from the past week and pill bottles it is not clear 
exactly what she had been taking. Her pill box with different 
quantities of pills in each day of the week, Xanax bottle with 
multiple different types of pill inside,
Percocet bottle empty (though patient reports having an 
additional supply elsewhere in her apartment). All of these 
findings raised concern for ongoing intentional and 
unintentional misuse of medications. In terms of her current 
presentation of AMS, this is most likely ___ misuse of 
medications followed by withdrawal from benzo/opiates. Infection 
less likely given normal labs including CSF studies. CTH 
unremarkable. Utox/serum tox negative, corroborating patient 
story of recent abrupt cessation of medications. She did not 
currently appear to be in active benzo withdrawal by vitals/exam 
and she reported last dose was 7 days prior to admission. She 
was monitored on CIWA while admitted, but did not score. 
Initially there was concern in the ED NMS or serotonin syndrome 
given hyper-reflexia on exam, but her mental status and 
hyper-reflexia rapidly improved to baseline upon admission to 
the floor, alleviating this concern. Neurology was consulted and 
felt her presentation was most consistent with 
benzodiazepine/opiate withdrawal. Her Percocet, Xanax, and 
Trazodone were held and discontinued on discharge.

#Chronic Low Back Pain
Managed by PCP at ___ (Dr. ___ with 
___. On admission her Percocet pill bottle from home was 
noted to be empty (last filled ___ with 90 pills - 30 day 
supply), suggesting over-use at home. She reported on admission 
that she had become concerned about Percocet overuse 3 days 
before admission and stopped cold ___, leading to worsening 
AMS and hallucinations. Percocet was held on admission and not 
resumed on discharge. She was started on Tylenol 1g TID and on 
the morning of discharge reported no back pain. She should 
follow-up with her PCP to explore alternative pain control 
options going forward.

#Anxiety
#Insomnia
Patient was taking citalopram, Xanax 1mg BID PRN, and trazodone
for anxiety/insomnia. She reports that she self-d/c Xanax one 
week ago given feeling "generally unwell" and concerned about 
medication overuse. Per ___ she last filled a 15-day supply 
(60 0.5mg tablets) on ___. Her Xanax pill bottle was 
inspected on admission and has a small number of
pills of various shapes and colors inside. Unclear what patient 
was actually taking. Her Xanax was held and not resumed. Her 
citalopram was initially held when concern was raised on 
admission for serotonin syndrome, but resumed on discharge when 
this seemed very unlikely. Her trazodone was held and not 
resumed. She was started on ramelteon and mirtazapine for 
insomnia going forward.

#HTN: Continued home metoprolol, held home olmesartan given 
formulary, resume on discharge
#HLD: Continued home Crestor

#Transitional Issues
[ ] Follow-up pending blood, urine, and CSF cultures (no growth 
to date at discharge)
[ ] Follow-up pending CSF HSV PCR
[ ] ___ A/P showed 12mm hypodense hepatic lesion - 
Non-emergent MRI abdomen with contrast as an outpatient to 
further characterize

Ms. ___ is clinically stable for discharge today. The total 
time spent today on discharge planning, counseling and 
coordination of care was greater than 30 minutes.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath 
2. ALPRAZolam 1 mg PO TID:PRN anxiety, insomnia 
3. azelas-fluticasone-NaCl-NaHCO3 137 mcg-50 mcg- 0.9 % nasal 
BID 
4. Citalopram 40 mg PO DAILY 
5. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
6. Metoprolol Succinate XL 100 mg PO DAILY 
7. oxyCODONE-acetaminophen ___ mg oral Q6H:PRN 
8. Rosuvastatin Calcium 10 mg PO QPM 
9. TraZODone 50 mg PO QHS 
10. olmesartan 40 mg oral DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID 
RX *acetaminophen 500 mg 2 tablet(s) by mouth Three times daily 
Disp #*180 Tablet Refills:*0 
2.  Mirtazapine 15 mg PO QHS 
RX *mirtazapine 15 mg 1 tablet(s) by mouth Nightly as needed 
Disp #*30 Tablet Refills:*0 
3.  Ramelteon 8 mg PO QHS 
RX *ramelteon [Rozerem] 8 mg 1 tablet(s) by mouth Nightly as 
needed Disp #*30 Tablet Refills:*0 
4.  Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath  
5.  azelas-fluticasone-NaCl-NaHCO3 137 mcg-50 mcg- 0.9 % nasal 
BID  
6.  Citalopram 40 mg PO DAILY  
7.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
8.  Metoprolol Succinate XL 100 mg PO DAILY  
9.  olmesartan 40 mg oral DAILY  
10.  Rosuvastatin Calcium 10 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Benzodiazepine and opiate withdrawal

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital with severe confusion and 
hallucinations related to two of your medications - Percocet and 
Xanax. These medications were stopped and you should not take 
them in the future.

You will go home with two new medications for insomnia: 
Ramelteon and Mirtazapine.

You should call Dr. ___ tomorrow to schedule an appointment 
for this week.

It was a pleasure taking care of you.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___